US04051248
1-Phenyl-8-[(1,2,3,4-tetrahydro-6-methoxy-1-oxo-2-naphthalenyl)methyl]-1,3,8-triazaspiro-[4.5]decan-4-one, hydrochloride (1:1)
1-Phenyl-8-[(1,2,3,4-tetrahydro-6-methoxy-1-oxo-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one (6.0 g) is finely ground and slurried in absolute ethanol (200 ml). While cooling the mixture at 0° C, ethanolic hydrogen chloride solution (1 equivalent) is added dropwise. The resulting mixture is stirred at room temperature for 15 minutes, heated on a steam bath for 10 minutes and allowed to stand at room temperature for 2 hours. The solid product is collected, washed with absolute ethanol, and dried under vacuum to yield 5.2 g of the title compound, melting point 203°-204° C.

reactant | 1-Phenyl-8-[(1,2,3,4-tetrahydro-6-methoxy-1-oxo-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one | 6.0 g | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)CC2C(C1=CC=C(C=C1CC2)OC)=O)=O | C25H29N3O3
reactant | hydrogen chloride | 1 equivalent | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-Phenyl-8-[(1,2,3,4-tetrahydro-6-methoxy-1-oxo-2-naphthalenyl)methyl]-1,3,8-triazaspiro-[4.5]decan-4-one, hydrochloride | 5.2 g | Cl.C1(=CC=CC=C1)N1CNC(C12CCN(CC2)CC2C(C1=CC=C(C=C1CC2)OC)=O)=O | InChI=1S/C25H29N3O3.ClH/c1-31-21-9-10-22-18(15-21)7-8-19(23(22)29)16-27-13-11-25(12-14-27)24(30)26-17-28(25)20-5-3-2-4-6-20;/h2-6,9-10,15,19H,7-8,11-14,16-17H2,1H3,(H,26,30);1H
